US07253158B2
To a solution of benzyloxyacetic acid (162 μl, 1.10 mmol) in 5 ml dimethylformamide were added 1,1′-carbonyl-diimidazole (0.18 g, 1.10 mmol). The mixture was stirred at room temperature for 10 minutes, heated to 40° C. for a few minutes and cooled to room temperature. 4-{[(4-Chloro-benzenesulfonyl)-(2-oxo-azepan-3-yl)-amino]-methyl}-N-hydroxy-benzamidine (0.45 g, 1.00 mmol) was added and the mixture was stirred at 100° C. for 5 hours and then poured into water. Filtration and chromatography on silicagel with ethylacetate/heptane (1/1 to 4/1) yielded 0.51 g (87%) N-[4-(5-benzyloxymethyl-[1,2,4]oxadiazol-3-yl)-benzyl]-4-chloro-N-(2-oxo-azepan-3-yl)-benzenesulfonamide as white solid, MS: m/e (%)=581.1 (MH+, 100).

reactant | benzyloxyacetic acid | 1.10 mmol, 162 μl | C(C1=CC=CC=C1)OCC(=O)O | C9H10O3
reactant | 1,1′-carbonyl-diimidazole | 1.10 mmol, 0.18 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-{[(4-Chloro-benzenesulfonyl)-(2-oxo-azepan-3-yl)-amino]-methyl}-N-hydroxy-benzamidine | 1.00 mmol, 0.45 g | ClC1=CC=C(C=C1)S(=O)(=O)N(C1C(NCCCC1)=O)CC1=CC=C(C(=N)NO)C=C1 | C20H23ClN4O4S
reactant | water | O | H2O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | N-[4-(5-benzyloxymethyl-[1,2,4]oxadiazol-3-yl)-benzyl]-4-chloro-N-(2-oxo-azepan-3-yl)-benzenesulfonamide | 0.51 g, 87% | C(C1=CC=CC=C1)OCC1=NC(=NO1)C1=CC=C(CN(S(=O)(=O)C2=CC=C(C=C2)Cl)C2C(NCCCC2)=O)C=C1 | C29H29ClN4O5S
